US05708008
5-(4-nitrobenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 20.0 mg (0.087 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 44.0 mg (0.131 mMol) 4-nitrobenzoic acid, 13.8 mg (41.8%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.087 mMol, 20.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 4-nitrobenzoic acid | 0.131 mMol, 44.0 mg | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 5-(4-nitrobenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 13.8 mg, 41.8% | [N+](=O)([O-])C1=CC=C(C(=O)NC=2C=C3C(=CNC3=CC2)C2CCN(CC2)C)C=C1 | C21H22N4O3
